US04929634
Preparation of 2-phenyl-pyrrole-4-carbonitrile
Under a nitrogen purge 2,3-dichloro-5,6-dicyano-1,4-bonzoquinone (0.23 g; 0.001 mol) and 2-phenyl-1-pyrroline-4-carbonitrile (0.17 g; 0.001 mol) is dissolved in 1,2-dimethoxyethane (13 mL) to form a clear orange solution. Pyridine (0.08 mL; 0,001 mol) is added in a single portion, causing a slight exotherm (to ca. 28° C.) and an immediate formation of a green/grey precipitate. The suspension is stirred at room temperature for 18 hours during which time much of the solvent evaporates. The brownish semi-solid residue is partitioned between ether and a half-saturated solution of sodium carbonate. The red-brown aqueous layer is extracted twice with ether and the combined ether layer is washed with fresh water, then saturated sodium chloride. After drying with MgSO4, solvent is removed under reduced pressure to obtain a white semi-solid. This material was recrystallized from ethylene dichloride (DARCO treatment) to yield lavender crystals (0.1 g).

reactant | 2-phenyl-1-pyrroline-4-carbonitrile | 0.001 mol, 0.17 g | C1(=CC=CC=C1)C1=NCC(C1)C#N | C11H10N2
reactant | Pyridine | 0,001 mol, 0.08 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dimethoxyethane | 13 mL | COCCOC | C4H10O2
product | 2-phenyl-pyrrole-4-carbonitrile | 0.1 g | C1(=CC=CC=C1)C=1NC=C(C1)C#N | C11H8N2
